US07863283B2
Ethyl 4-(isopropylamino)-7-[(RS)-3-(S-methylsulphonimidoyl)propoxy]-quinazoline-6-carboxylate
Ethyl 4-(isopropylamino)-7-[(RS)-3-{S-methyl -N-[(4-nitrophenyl)sulphonyl]-sulphonimidoyl}propoxy]quinazoline-6-carboxylate (270 mg, 0.47 mmol) is dissolved in acetonitrile (7 ml), treated with caesium carbonate (276 mg, 0.85 mmol) and thiophenol (90 mg, 0.82 mmol) and stirred at room temperature for 20 hours. The reaction batch is diluted with water and methylene chloride. The organic phase is separated off and dried over sodium sulphate. The desired product is obtained after removal of the solvent, preparative HPLC and subsequent repeated trituration of the residue in 45% yield (83 mg).

reactant | Ethyl 4-(isopropylamino)-7-[(RS)-3-{S-methyl -N-[(4-nitrophenyl)sulphonyl]-sulphonimidoyl}propoxy]quinazoline-6-carboxylate | 0.47 mmol, 270 mg | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)C(=O)OCC)OCCCS(=O)(=NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C24H29N5O8S2
reactant | caesium carbonate | 0.85 mmol, 276 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thiophenol | 0.82 mmol, 90 mg | C1(=CC=CC=C1)S | C6H6S
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(isopropylamino)-7-[(RS)-3-(S-methylsulphonimidoyl)propoxy]-quinazoline-6-carboxylate | 45% yield | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)C(=O)OCC)OCCCS(=O)(=N)C | C18H26N4O4S
